US07414076B2
Preparation of 3-(1-carboxy-1-methylethylamino)-1-propanesulfonic acid (Compound DI)
To a cold (5° C.) mixture of 2-aminoisobutyric acid (2.0 g, 19.4 mmol), NaOH (776 mg, 19.4 mmol) in 1,4-dioxane (10 mL) and water (4 mL) was added via syringe pump (over a 4-hour period), a solution 1,3-propane sultone (2.02 g, 16.2 mmol) in 1,4-dioxane (total: 4 mL). The solution was stirred at room temperature for 2 hours before it was allowed to warm up to room temperature. The reaction mixture was stirred under these conditions overnight. The solvent was evaporated under reduced pressure. The resultant solid material was recrystallized from 5% water/EtOH. The resulting solid was dissolved in water; and the aqueous solution was passed through an ion exchange column (Dowex 50WX 8, 100 g, solvent: water). The solvent was evaporated under reduced pressure. The product was lyophilized to afford Compound DI (880 mg, 28%). 1H NMR (D2O, 500 MHz) δ ppm 3.00 (t, 2H, J=7.6 Hz), 2.91 (t, 2H, J=7.3 Hz), 2.01 (m, 2H), 1.34 (s, 6H). 13C NMR (D2O, 125 MHz) δ ppm 176.93, 63.89, 48.13, 42.04, 22.15, 21.86. ES-MS 224 (M−1).

reactant | 2-aminoisobutyric acid | 19.4 mmol, 2.0 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | NaOH | 19.4 mmol, 776 mg | [OH-].[Na+]
reactant | 1,3-propane sultone | 16.2 mmol, 2.02 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-(1-carboxy-1-methylethylamino)-1-propanesulfonic acid | C(=O)(O)C(C)(C)NCCCS(=O)(=O)O | C7H15NO5S
